US06117870
Under an ice-cooled, dichloromethane solution containing 12 ml (0.15 mol) of sulfurylchloride was cooled, dichloromethane solution containing 21 ml (0.15 mol) of triethylamine and 13 ml (0.15 mol) of morpholine was added dropwise over a period one hour. After stirring for 2 hour, the reaction mixture was washed cooled-0.1N hydrochloric acid and saturated brine and then was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue thus obtained was chromatographed on silica gel column for purification, whereby 20.54 g of morpholine-4-sulfonylchloride was obtained.

reactant | sulfurylchloride | 0.15 mol, 12 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | triethylamine | 0.15 mol, 21 ml | C(C)N(CC)CC | C6H15N
reactant | morpholine | 0.15 mol, 13 ml | N1CCOCC1 | C4H9NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | morpholine-4-sulfonylchloride | 20.54 g | N1(CCOCC1)S(=O)(=O)Cl | C4H8ClNO3S
